US07691882B2
3-(3-(5-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a methanol (5 mL) solution of 3-(2-nitro-ethyl)-5-phenoxy-pyridine (210 mg, 0.860 mmol) described in Manufacturing Example 145-1-4 was added lithium methoxide (65 mg, 1.72 mmol), which was stirred for 25 minutes at room temperature. The reaction mixture was concentrated under a reduced pressure. To a suspension of this residue in tetrahydrofuran (5 mL) ad methylene chloride (5 mL) was added titanium (IV) tetrachloride (236 μL, 2.15 mmol) under nitrogen atmosphere, which was stirred for 50 minutes at 0° C. Sodium hydrogencarbonate was added to the reaction mixture at 0° C., which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure. To a tetrahydrofuran (4 mL) solution of this residue were added 3-ethynyl-pyridin-2,6-diamine (15 mg, 0.11 mmol) described in Manufacturing Example 13-1-3 and triethylamine (240 μL, 1.72 mmol), which was stirred for 1 hour and 15 minutes at 50° C. Water was added to the reaction mixture at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase containing 0.1% trifluoroacetic acid) to obtain the title compound (5.6 mg, 1.1%) as a ditrifluoroacetic acid salt.

reactant | 3-(2-nitro-ethyl)-5-phenoxy-pyridine | 0.860 mmol, 210 mg | [N+](=O)([O-])CCC=1C=NC=C(C1)OC1=CC=CC=C1 | C13H12N2O3
reactant | lithium methoxide | 1.72 mmol, 65 mg | C[O-].[Li+]
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.11 mmol, 15 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 1.72 mmol, 240 μL | C(C)N(CC)CC | C6H15N
catalyst | titanium (IV) tetrachloride | 2.15 mmol, 236 μL | [Ti](Cl)(Cl)(Cl)Cl
solvent | Water | O | H2O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 3-(3-(5-Phenoxy-pyridin-3-ylmethyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 5.6 mg, 1.1% | O(C1=CC=CC=C1)C=1C=C(C=NC1)CC1=NOC(=C1)C=1C(=NC(=CC1)N)N | C20H17N5O2
